US05681844
Preparation of cyclohexylmethylsulfonate sodium salt
To a solution of sodium bisulfite (32 g, 307 mmole) in H2O (200 mL) was added cyclohexylmethyl bromide (21 mL, mmole). The mixture was then stirred vigorously while heated at reflux for 48 hours. Upon cooling to room temperature, a white precipitate formed. The precipitate was collected on a Buchner funnel and washed with diethyl ether to wash away residual cyclohexylmethyl bromide. The white plate-like solid was dried under high vacuum overnight to provide 11.8 g (39%) of the title compound which had a m.p.>400° C.

reactant | sodium bisulfite | 307 mmole, 32 g | S([O-])(O)=O.[Na+]
reactant | cyclohexylmethyl bromide | 21 mL | C1(CCCCC1)CBr | C7H13Br
solvent | H2O | 200 mL | O | H2O
product | cyclohexylmethylsulfonate sodium salt | 11.8 g, 39% | [Na+].C1(CCCCC1)CS(=O)(=O)[O-] | InChI=1S/C7H14O3S.Na/c8-11(9,10)6-7-4-2-1-3-5-7;/h7H,1-6H2,(H,8,9,10);/q;+1/p-1
